US04518607
The resulting ethereal solution from Example 4 containing 1-[4-(4-chlorophenyl)-2-(3-aminophenylthio)-n-butyl]imidazole was treated at room temperature with stirring with acetic anhydride (1.5 m.). After stirring overnight, the mixture was evaporated to dryness in vacuo and the residue chromatographed on silica gel eluting with methylene chloride followed by 2.2% water in ethyl acetate. The resulting pure product, 1-[4-(4-chlorophenyl)-2-(3-acetylaminophenylthio)-n-butyl]imidazole, obtained as a gum, was dissolved in a small volume of methanol and treated with excess ethereal hydrogen chloride. The solution was filtered, evaporated almost to dryness and evacuated in a warm water bath to give 1-[4-(4-chlorophenyl)-2-(3-acetylaminophenylthio)-n-butyl]imidazole hydrochloride 1.79 g as a brittle foam, dec 87°-92° C.

reactant | 1-[4-(4-chlorophenyl)-2-(3-aminophenylthio)-n-butyl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)SC1=CC(=CC=C1)N | C19H20ClN3S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[4-(4-chlorophenyl)-2-(3-acetylaminophenylthio)-n-butyl]imidazole | ClC1=CC=C(C=C1)CCC(CN1C=NC=C1)SC1=CC(=CC=C1)NC(C)=O | C21H22ClN3OS
